US04096267
Step E: [1-Oxo-2-(4-methoxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid
A stirred mixture of 2-(4-methoxyphenyl)-2-methyl 5-hydroxy-6,7-dichloro-1-indanone (2.6 g., 0.0077 mole), potassium carbonate (2.14 g., 0.0154 mole) and ethyl bromoacetate (2.58 g., 0.0154 mole) in dimethylformamide (60 ml.) is warmed at 55°-60° C. for 2.5 hrs., then treated with water (60 ml.),-10N sodium hydroxide solution (3 ml., 0.03 mole) and heated at 100° C. for one hour. The reaction mixture is added slowly to crushed ice-water (600 ml.)-12N hydrochloric acid (20 ml.) to precipitate 1.69 g. of [1-oxo-2-(4-methoxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid which melts at 173°-175° C. after crystallization from nitromethane.

reactant | 2-(4-methoxyphenyl)-2-methyl 5-hydroxy-6,7-dichloro-1-indanone | 0.0077 mole, 2.6 g | COC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C17H14Cl2O3
reactant | potassium carbonate | 0.0154 mole, 2.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0154 mole, 2.58 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.03 mole, -10N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | [1-Oxo-2-(4-methoxyphenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)OC | C19H16Cl2O5
